US07291631B2
Using General Procedure B: Reaction of (4-amino-butyl)-carbamic acid tert-butyl ester in CH2Cl2 and 5-chloro-3-methyl-pyridine-2-carbaldehyde with NaBH(OAc)3 gave {4-[(5-chloro-3-methyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester as a colorless oil. 1H NMR (CDCl3) δ 1.41 (s, 9H), 1.54 (m, 4H), 2.13 (s, 1H), 2.28 (s, 3H), 2.68 (t, 2H, J=6.0 Hz), 3.11 (d, 2H, J=6.0 Hz), 3.81 (s, 2H), 4.77 (br s, 1H), 7.41 (s, 1H), 8.31 (s, 1H).

reactant | (4-amino-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCN)=O | C9H20N2O2
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | 5-chloro-3-methyl-pyridine-2-carbaldehyde | ClC=1C=C(C(=NC1)C=O)C | C7H6ClNO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | {4-[(5-chloro-3-methyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCNCC1=NC=C(C=C1C)Cl)=O | C16H26ClN3O2
